US07273865B2
To a stirred solution of 5.80 g (15.6 mmol) 1-benzoyl-3-(5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea in 100 ml tetrahydrofuran and 25 ml methanol heated at 60° C. was added dropwise 1.15 ml (6.23 mmol) 5.4 M sodium methylate solution and stirring continued for 2 h at 60° C. 1.2 ml concentrated hydrochloric acid was then added and the reaction mixture concentrated in vacuo. The residue was triturated in 25 ml ether to afford 3.51 g (84%) (5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea as alight brown crystalline solid. ES-MS m/e (%): 269 (M+H+, 100).

reactant | 1-benzoyl-3-(5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea | 15.6 mmol, 5.80 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC(=NC=C1OC)N1CCOCC1 | C18H20N4O3S
reactant | sodium methylate | 6.23 mmol, 5.4 M, 1.15 ml | C[O-].[Na+]
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
product | (5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea | 3.51 g, 84% | COC=1C(=CC(=NC1)N1CCOCC1)NC(=S)N | C11H16N4O2S
